US05146002
Synthesis of 1,4-bis(4,4-dimethyl-3-oxopentanoyl)benzene
In a 2 l four-necked flask equipped with a mechanical stirrer, dropping funnel, thermometer, reflux condenser, and a nitrogen-inlet tube, 32 gm (0.8 mol) of 60% sodium hydride, 79 gm (0.79 mol) of pinacolone, and 700 ml of anhydrous tetrahydrofuran were mixed with stirring under nitrogen stream. To this solution, 70 gm (0.36 mol) of dimethylterephthalate in 300 ml of tetrahydrofuran was added dropwise over one hour. After the addition, the reaction mixture was refluxed with heating for 6 hours, and was cooled to room temperature. After addition of 180 ml of 2N aqueous hydrochloric acid, the reaction mixture was extracted with chloroform. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated to give a crude product. The crude product was recrystallized using hexane to obtain 78 gm of the target compound as colorless scales (yield: 66%).

reactant | sodium hydride | 0.8 mol, 32 gm | [H-].[Na+]
reactant | pinacolone | 0.79 mol, 79 gm | CC(C(C)(C)C)=O | C6H12O
reactant | dimethylterephthalate | 0.36 mol, 70 gm | COC(C1=CC=C(C(=O)OC)C=C1)=O | C10H10O4
reactant | hydrochloric acid | 2N, 180 ml | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 1,4-bis(4,4-dimethyl-3-oxopentanoyl)benzene | 78 gm, yield: 66% | CC(C(CC(=O)C1=CC=C(C=C1)C(CC(C(C)(C)C)=O)=O)=O)(C)C | C20H26O4
